US08304419B2
A solution of phosphorous oxychloride (3.21 ml, 34.5 mmol) was added dropwise over a period of 15 min to a 0° C. solution of DMF (2.67 ml, 34.5 mmol) under nitrogen. The mixture was allowed to warm to RT and stirred for 30 min. Dichloroethane (20 mL) was added and the reaction mixture cooled to 0° C. A solution of methyl 3-chloro-1H-pyrrole-2-carboxylate (5 g, 31.3 mmol) in dichloroethane (20 mL) was added dropwise over 30 min. The reaction mixture was warmed to RT and allowed to stir for 1 h. The flask was placed in an oil bath at 90° C. and stirred for 30 min. The reaction mixture was cooled to RT, a solution of sodium acetate (25 g, 305 mmol) in water (25 mL) was added and stirred for 15 min. Methylene chloride (100 mL) was added and the layers separated. The aqueous layer was extracted with methylene chloride (2×25 mL), the organic layers were combined, dried over sodium sulfate, filtered and evaporated. The crude material was purified by column chromatography (hexanes: EtOAc; 10-100%) to afford three isolated materials. The first compound to elute was a mixture of starting materials and product. The second fraction to elute was evaporated and recrystallized from a minimal amount of EtOAc to afford methyl 3-chloro-5-formyl-1H-pyrrole-2-carboxylate (1.2 g, 6.40 mmol, 20% yield) as yellowish crystals. The third fraction to elute was evaporated and recrystallized from hexanes: EtOAc to afford methyl 3-chloro-4-formyl-1H-pyrrole-2-carboxylate (1.05 g, 18% yield) as a tan solid. Methyl 3-chloro-5-formyl-1H-pyrrole-2-carboxylate: 1H NMR (400 MHz, DMSO-d6): 6 ppm 14.0 (br. s., 1H), 9.64 (d, 1H) 7.01 (s, 1H) 3.82 (s, 3H). MS: m/z 188.0 (M+1). Methyl 3-chloro-4-formyl-1H-pyrrole-2-carboxylate: 1H NMR (400 MHz, DMSO-d6): 6 ppm 14.0 (br. s., 1H) 9.77 (s, 1H) 7.77 (s, 1H) 3.80 (s, 3H). MS: m/z 188.0 (M+1).

reactant | phosphorous oxychloride | 34.5 mmol, 3.21 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | DMF | 34.5 mmol, 2.67 ml | CN(C)C=O | C3H7NO
reactant | methyl 3-chloro-1H-pyrrole-2-carboxylate | 31.3 mmol, 5 g | ClC1=C(NC=C1)C(=O)OC | C6H6ClNO2
reactant | sodium acetate | 305 mmol, 25 g | C(C)(=O)[O-].[Na+]
solvent | dichloroethane | 20 mL | ClC(C)Cl | C2H4Cl2
solvent | water | 25 mL | O | H2O
solvent | Dichloroethane | 20 mL | ClC(C)Cl | C2H4Cl2
solvent | Methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
product | methyl 3-chloro-5-formyl-1H-pyrrole-2-carboxylate | 6.40 mmol, 1.2 g, 20% yield | ClC1=C(NC(=C1)C=O)C(=O)OC | C7H6ClNO3
